US07977364B2
{1-[(tert-butoxycarbonyl)oxy]-6-methoxy-1H-indazol-3-yl}acetonitrile
KCN (5.73 g, 88 mmol) in 23 ml of H2O was added dropwise at 0° C. to 1-[(tert-butoxycarbonyl)oxy]-6-methoxy-3-bromomethyl-1H-indazole (10.5 g, 30.08 mmol) in 80 ml of ethanol and stirred at room temperature for 1 h 30. The mixture was poured into water, and extracted with ethyl acetate. The organic layer was dried over Na2SO4. Concentration and precipitation in diisopropyl ether gave the expected product (4.42 g, 50% as solid).

reactant | KCN | 88 mmol, 5.73 g | [C-]#N.[K+]
reactant | 1-[(tert-butoxycarbonyl)oxy]-6-methoxy-3-bromomethyl-1H-indazole | 30.08 mmol, 10.5 g | C(C)(C)(C)OC(=O)ON1N=C(C2=CC=C(C=C12)OC)CBr | C14H17BrN2O4
solvent | H2O | 23 ml | O | H2O
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | {1-[(tert-butoxycarbonyl)oxy]-6-methoxy-1H-indazol-3-yl}acetonitrile | 4.42 g, 50% | C(C)(C)(C)OC(=O)ON1N=C(C2=CC=C(C=C12)OC)CC#N | C15H17N3O4
